US07547691B2
2-{2-[3-(1-Cyclopropyl-piperidin-4-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[3-(1-cyclopropylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-methyl-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 490 [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(1-cyclopropylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCN(CC2)C2CC2
reactant | 2-[5-methyl-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCNCC2 | C25H31N5OS
product | 2-{2-[3-(1-Cyclopropyl-piperidin-4-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCN(CC2)C2CC2 | InChI=1S/C28H35N5OS.2ClH/c1-18-17-30-28(29-13-3-4-19-11-14-33(15-12-19)21-9-10-21)32-26(18)25-16-23-22(5-2-6-24(23)35-25)27(34)31-20-7-8-20;;/h2,5-6,16-17,19-21H,3-4,7-15H2,1H3,(H,31,34)(H,29,30,32);2*1H
